US05840732
ii) Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione
To a solution of 0.27 g (1.0 mmol) of 5-(4-chlorobutylsulfonyl)imidazo[1,2-a]pyridine and 0.177 g (1.0 mmol) of thiazolidine-2,4-dione in 7 ml of N,N-dimethylformamide, 0.15 ml (1.0 mmol) of 1,8-diazabicyclo[5.4.0]-undecene was added, followed by heating at 80° C. for 16 hours. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform→chloroform/methanol=50/1) to yield 0.22 g (62.2%, light yellow oily substance) of the desired product.

reactant | 5-(4-chlorobutylsulfonyl)imidazo[1,2-a]pyridine | 1.0 mmol, 0.27 g | ClCCCCS(=O)(=O)C1=CC=CC=2N1C=CN2 | C11H13ClN2O2S
reactant | thiazolidine-2,4-dione | 1.0 mmol, 0.177 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 1,8-diazabicyclo[5.4.0]-undecene | 1.0 mmol, 0.15 ml | N12C=CCCCC2NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylsulfonyl)butyl]thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2S(=O)(=O)CCCCN2C(SCC2=O)=O | C14H15N3O4S2
